US07728131B2
t-butyl 3-iodo-4-methylbenzoate
26.20 g of 3-iodo-4-methylbenzoic acid was suspended in 500 ml of t-butyl alcohol and 43.65 g of di-t-butyl dicarbonate was added, and then the mixture was stirred at room temperature. To the mixture was added 1.22 g of 4-(dimethylamino)pyridine, the mixture was stirred at room temperature for 10 minutes, and then the mixture was heated at reflux for 4 hours. After the solvent was distilled off under reduced pressure, the residue was mixed with ethyl acetate and further distilled off under reduced pressure. After 10 ml of ethyl acetate and 30 ml of n-hexane were added to the residue and the resulting mixture was stirred. Insolubles were removed by filtration and the solvent in the filtrate was distilled off under reduced pressure. 30 ml of n-hexane was added to the residue and the same operation as described above was performed with the mixture. The residue was purified by silica gel column chromatography to obtain 22.01 g of the objective compound as a colorless oily product.

reactant | 3-iodo-4-methylbenzoic acid | 26.20 g | IC=1C=C(C(=O)O)C=CC1C | C8H7IO2
reactant | di-t-butyl dicarbonate | 43.65 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | t-butyl alcohol | 500 ml | C(C)(C)(C)O | C4H10O
catalyst | 4-(dimethylamino)pyridine | 1.22 g | CN(C1=CC=NC=C1)C | C7H10N2
product | t-butyl 3-iodo-4-methylbenzoate | 22.01 g | IC=1C=C(C(=O)OC(C)(C)C)C=CC1C | C12H15IO2
